US05891889
Step F: N-t-Butoxycarbonyl-4-(3-methylphenyl)-4-hydroxy piperidine.
To a solution of 3-methylphenyl magnesium bromide (58 ml of a 1M solution in THF, 58.0 mmol) at 0° C. was added a solution of N-t-butoxycarbonyl piperidin-4-one (10.0 g, 53mmol) in THF (30 ml) dropwise over 20 min, and the reaction stirred under argon for a further 30 min. The reaction was quenched by addition of sat NH4Cl solution (100 ml), and diluted with EtOAc. The organic extracts were dried, (MgSO4) and the solvent evaporated in vacuo to afford the title compound of sufficient purity to be used in the next step.

reactant | 3-methylphenyl magnesium bromide | CC=1C=C(C=CC1)[Mg]Br
reactant | N-t-butoxycarbonyl piperidin-4-one | 53mmol, 10.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | N-t-Butoxycarbonyl-4-(3-methylphenyl)-4-hydroxy piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=CC(=CC=C1)C | C17H25NO3
